2111-01-11 12:10:00 Physician Attending Progress Note
Chief Complaint: GIB
   DT's--EtOH withdrawl
   Pancreatic Mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2111-1-10**] 12:00 PM--no source of bleeding seen
 FEVER - 101.8
F - [**2111-1-10**] 08:00 PM
   -Patient with increased agitation overnight and given then >150mg
   valium with reasonable response ultimately but very limited response
   initially.
   -CT done with IV contrast with initial reaction being pancreatic mass
   at head and not further defined.  Interestingly there was a
   pseudo-aneurysmal vessel in region of stomach.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2111-1-11**] 06:30 AM
   Pantoprazole (Protonix) - [**2111-1-11**] 07:30 AM
   Hydromorphone (Dilaudid) - [**2111-1-11**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Gastrointestinal: Abdominal pain
   Psychiatric / Sleep: Agitated
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2111-1-11**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.4
   HR: 92 (71 - 128) bpm
   BP: 97/58(67) {90/51(61) - 134/87(91)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,461 mL
                                                                    634 mL
   PO:
             TF:
   IVF:
                                                                  1,111 mL
                                                                    634 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    625 mL
                                                                    500 mL
   Urine:
                                                                    625 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    836 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   245 K/uL
   94 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   9 mg/dL
   102 mEq/L
   134 mEq/L
   27.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2111-1-10**]  02:42 PM
                             [**2111-1-10**]  08:33 PM
                             [**2111-1-11**]  05:38 AM
   WBC
   9.6
   10.6
   Hct
   27.2
   31.1
   27.9
   Plt
   242
   245
   Cr
   0.5
   Glucose
   94
   Other labs: PT / PTT / INR:13.2/24.3/1.1, ALT / AST:16/22, Alk Phos / T
   Bili:41/1.0, LDH:217 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   57 yo male with history of EtOH abuse and now admitted to ICU with
   evidence of GIB and with unrevealing endoscopy yesterday.  He had
   evolution of increasing agitation and requirement for significant
   increase in benzo dosing to control symptoms of autonomic arousal.  The
   evolution of significnat fever noted overnight may be related to
   withdrawl syndrome but may welll be related to infection.
   1)GI Bleed-
   -HCT at 27 but patient with ongoing requirement for transfusion (2
   units)
   -Current hypothesis is that diverticular source is most likely
   -Will pursue colonscopy as next evaluation
   -Prep today for colonscopy tomorrow
   -HCT q 6 hours
   -PPI
   -Peripheral IV's
 FEVER-Concerning for alternative source of infection or, when
   combined with abdominal pain--possible diverticulitis.  The fever
   timing was during transfusion but inital hemolysis labs did not reveal
   active transfusion reaction.
   -Follow abdominal exam
   -Follow up on final read on CT
   -Cultures pending
 PANCREATITIS, ACUTE/Pancreatic Mass-He did have some intermittent
   abdominal pain overnight
   -Will need to consider ERCP for more definative evlauation
   -npo
   -IVF as needed
   -PRN Dilaudid
 ALCOHOL ABUSE/WITHDRAWL-
   -Thiamine/Folate/MVI
   -Valium PRN
   -Will need organized taper
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 12:00 PM
   20 Gauge - [**2111-1-10**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2111-01-13 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hct stable throughout the day, still having melanotic stool
   - evening hct fell 25.9-->23.3-->1 unit pRBC.
   - EUS tomorrow by ERCP,
   -GI planning for Colonoscopy tomorrow
   -did not receive any valium yesterday.
   -
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-12**] 04:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-13**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 77 (76 - 102) bpm
   BP: 93/64(71) {85/49(59) - 122/82(90)} mmHg
   RR: 16 (11 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  2,718 mL
                                                                    377 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                  2,248 mL
                                                                      2 mL
   Blood products:
                                                                    350 mL
                                                                    375 mL
   Total out:
                                                                  1,100 mL
                                                                    350 mL
   Urine:
                                                                  1,100 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,618 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, sleepy but
   arousable
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: present), (Left DP pulse: present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: slight crackles at bases, but poor resp effort)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed; no tremor or
   asterixis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   9.6 g/dL
   88 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   103 mEq/L
   133 mEq/L
   26.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2111-1-10**]  02:42 PM
                             [**2111-1-10**]  08:33 PM
                             [**2111-1-11**]  05:38 AM
                             [**2111-1-11**]  12:43 PM
                             [**2111-1-11**]  09:30 PM
                             [**2111-1-12**]  04:01 AM
                             [**2111-1-12**]  11:48 AM
                             [**2111-1-12**]  03:56 PM
                             [**2111-1-12**]  09:07 PM
                             [**2111-1-13**]  04:17 AM
   WBC
   9.6
   10.6
   5.1
   6.5
   Hct
   27.2
   31.1
   27.9
   25.0
   25.5
   24.9
   26.7
   25.9
   23.3
   26.5
   Plt
   [**Telephone/Fax (3) 3417**]81
   Cr
   0.5
   0.5
   0.5
   Glucose
   94
   118
   88
   Other labs: PT / PTT / INR:12.7/25.1/1.1, ALT / AST:14/17, Alk Phos / T
   Bili:29/0.5, Amylase / Lipase:/198, Differential-Neuts:74.6 %,
   Lymph:16.9 %, Mono:5.6 %, Eos:2.6 %, LDH:139 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PANCREATITIS, ACUTE
 ALCOHOL ABUSE
   57M w EtOH abuse, diverticulitis who presents to ICU for EGD evaluation
   of melanotic stools.
   .
   # GI Bleeding - Melanotic stools: Patient with at melanotic stools, no
   stools overnight.  EGD [**1-10**] results do not reveal a site of bleeding.
   Multiple potential causes including small bowel or colonic bleeding.
   Hct continuing to trend down slowly.
   - will check serial hematocrits
   - serial hct, transfuse > 26
   - active type and screen
   - 2x 18g PIV
   - sugery recommends colonscopy
   - appreceiate GI recs
   - Undergoing EUS today
   -colonoscopy tomorrow.
   .
   # Pancreatitis/Pancreatic mass: Continue NPO, asymptomatic currently.
   Treat with meds prn.  CT confirmed cystic mass at head of pancreas
   - IVF- will reorder today
   - NPO
   - Pain meds- dilaudid PRN
   - ERCP scheduled for Tuesday to have ultrasound guided bx
   - surgery and GI following
   .
   # Alcohol abuse: Previously with Delirium tremens
   - Continue CIWA w valium PRN
   - thiamine and folate.
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: FULL (confirmed w pt and daughter, HCP)
   .
   # Communication: Patient, daughter
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 12:00 PM
   20 Gauge - [**2111-1-12**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of resdident
s history and exam. Agee
   substantially with assessment and plan.  Denies abd pain or nausea
   (limited history due to language).  No tenderness and chest is clear.
   Hct continues to slowly decline despite multiple units PRBC.
   Priority is identifying bleeding site. Plan is for colonoscopy,
   although melanic stool makes an upper source still a concern.  No
   hemodynamic instability but has had major bleed with substantial blood
   replacement.  Continuous ooze argues somewhat against diverticular
   source.
   Time spent 35 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2111-1-13**] 14:52 ------

2111-01-14 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -melena x 2 at 11AM and 2PM; hct recheck from 26.7 to 24.4; VSS
   -after GI prep started, increase blood in stool, but difficult to
   assess blood amount; VSS
   -given 2 units RBCs, after first unit hct was 28.1, after second was
   30.7
   -continue on IVF
   -no withdraw sx
   -plan for colonscopy [**1-14**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-1-13**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-14**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 71 (70 - 87) bpm
   BP: 91/52(60) {81/49(56) - 111/75(80)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  7,222 mL
                                                                    440 mL
   PO:
           TF:
   IVF:
                                                                  2,447 mL
                                                                    115 mL
   Blood products:
                                                                    775 mL
                                                                    325 mL
   Total out:
                                                                  4,851 mL
                                                                    800 mL
   Urine:
                                                                  3,550 mL
                                                                    300 mL
   NG:
   Stool:
                                                                  1,301 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,371 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, sleepy but
   arousable
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: present), (Left DP pulse: present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: slight crackles at bases, but poor resp effort)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed; no tremor or
   asterixis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   11.1 g/dL
   93 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   4 mg/dL
   108 mEq/L
   138 mEq/L
   30.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2111-1-11**]  09:30 PM
                             [**2111-1-12**]  04:01 AM
                             [**2111-1-12**]  11:48 AM
                             [**2111-1-12**]  03:56 PM
                             [**2111-1-12**]  09:07 PM
                             [**2111-1-13**]  04:17 AM
                             [**2111-1-13**]  11:19 AM
                             [**2111-1-13**]  05:03 PM
                             [**2111-1-13**]  10:57 PM
                             [**2111-1-14**]  04:12 AM
   WBC
   5.1
   6.5
   5.4
   6.9
   Hct
   25.5
   24.9
   26.7
   25.9
   23.3
   26.5
   26.7
   24.4
   28.1
   30.7
   Plt
   245
   281
   299
   334
   Cr
   0.5
   0.5
   0.5
   Glucose
   118
   88
   93
   Other labs: PT / PTT / INR:12.7/25.1/1.1, ALT / AST:[**12-18**], Alk Phos / T
   Bili:30/1.3, Amylase / Lipase:/198, Differential-Neuts:74.6 %,
   Lymph:16.9 %, Mono:5.6 %, Eos:2.6 %, Albumin:2.9 g/dL, LDH:151 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57M w EtOH abuse, diverticulitis who presents to ICU for EGD evaluation
   of melanotic stools.
   .
   # GI Bleeding - Melanotic stools: Patient with two more  melanotic
   stools yesterday.  Has had a total of 7 units of blood during hospital
   course.   EGD [**1-10**] results do not reveal a site of bleeding.  Multiple
   potential causes including small bowel or colonic bleeding.  Hct
   continuing to trend down slowly.  Plan is for endoscopic US and
   colonoscopy, hopefully today.
   - will check serial hematocrits
   - serial hct, transfuse > 26
   - active type and screen
   - 2x 18g PIV
   - sugery recommends colonscopy
   - appreceiate GI recs
   -  EUS today
   - colonoscopy
   .
   # Pancreatitis/Pancreatic mass: Continue NPO, asymptomatic currently.
   Treat with meds prn.  CT confirmed cystic mass at head of pancreas
   - IVF- will reorder today
   - NPO, will restart diet after EUS and colonoscopy
   - Pain meds- dilaudid PRN
   - ERCP scheduled for ultrasound guided bx
   - surgery and GI following
   - no longer requesting dilaudid
   .
   # Alcohol abuse: Previously with Delirium tremens
   - Continue CIWA w valium PRN
   - thiamine and folate.
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: FULL (confirmed w pt and daughter, HCP)
   .
   # Communication: Patient, daughter
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-10**] 12:00 PM
   20 Gauge - [**2111-1-13**] 03:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of resident
s history and exam. Agree
   substantially with assessment and plan.  He continues to bleed with
   some BRB evident in stool over night after prep.  Hct continues to
   slowly decline. Has now received 7 U PRBC but remains hemodyn stable.
   Alert, comfortable on exam w/o abd tenderness or evidence of
   withdrawal.
   Continued bleeding, almost certainly from colonic source.  Oozing seems
   somewhat atypical for diverticular source and an AVM seems more likely.
   In any case needs complete evaluation. If not amenable to colonoscopic
   intervention may welll need surgery.
   Follow hct q4h
   Transfusion threshold 25
   Monitor coags
 INR < 2.0 and plt > 50k
   Colonoscopy today
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2111-1-14**] 14:05 ------

2111-01-15 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2111-1-14**] 04:20 PM
   - bedside colonoscopy: int/ext hemorrhoids, diverticulosis, no clear
   cause of GI bleed (? diverticular vs hemosuccus pancreaticus)
   - NPO for EUS on [**1-15**]
   - HCT: 35.4 --> 30.9 --> 32
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-14**] 04:00 PM
   Fentanyl - [**2111-1-14**] 04:28 PM
   Midazolam (Versed) - [**2111-1-14**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-15**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 69 (61 - 83) bpm
   BP: 108/68(78) {86/50(58) - 131/87(96)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  5,440 mL
                  PO:
                                                                  4,000 mL
                  TF:
   IVF:
                                                                  1,115 mL
   Blood products:
                                                                    325 mL
   Total out:
                                                                  4,250 mL
                                                                    450 mL
   Urine:
                                                                  2,450 mL
                                                                    450 mL
   NG:
   Stool:
                                                                  1,800 mL
   Drains:
   Balance:
                                                                  1,190 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: present), (Left DP pulse: present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed; no tremor or
   asterixis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   391 K/uL
   12.0 g/dL
   95 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   3 mg/dL
   103 mEq/L
   137 mEq/L
   33.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2111-1-12**]  09:07 PM
                             [**2111-1-13**]  04:17 AM
                             [**2111-1-13**]  11:19 AM
                             [**2111-1-13**]  05:03 PM
                             [**2111-1-13**]  10:57 PM
                             [**2111-1-14**]  04:12 AM
                             [**2111-1-14**]  10:09 AM
                             [**2111-1-14**]  06:00 PM
                             [**2111-1-14**]  11:56 PM
                             [**2111-1-15**]  06:13 AM
   WBC
   6.5
   5.4
   6.9
   7.9
   Hct
   23.3
   26.5
   26.7
   24.4
   28.1
   30.7
   35.4
   30.9
   32.1
   33.1
   Plt
   [**Telephone/Fax (3) 3457**]91
   Cr
   0.5
   0.5
   Glucose
   88
   93
   Other labs: PT / PTT / INR:13.2/26.0/1.1, ALT / AST:[**12-18**], Alk Phos / T
   Bili:30/1.3, Amylase / Lipase:/198, Differential-Neuts:74.6 %,
   Lymph:16.9 %, Mono:5.6 %, Eos:2.6 %, Albumin:2.9 g/dL, LDH:151 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57M w EtOH abuse, diverticulitis who presents to ICU for EGD evaluation
   of melanotic stools.
   .
   # GI Bleeding - Melanotic stools: Patient with no melena for >24hrs.
   Has had a total of 7 units of blood during hospital course.   EGD [**1-10**]
   results do not reveal a site of bleeding.  Colonscopy [**1-14**] only showed
   hemorrhoids and diverticulitis, but no active bleeding. Multiple
   potential causes including small bowel or colonic bleeding.  Hct now
   stable.
   - if bleeding redevolpes and is more rapid, will consider tagger RBCs
   scan, also will contact surgery
   - consider EGD after ERCP if no source of bleeding still
   - will check serial hematocrits
   - serial hct, transfuse > 26
   - active type and screen
   - 2x 18g PIV
   - appreciate surgery recs
   - appreciate GI recs
   - ERCP US today
   .
   # Pancreatitis/Pancreatic mass: Continue NPO for procedure,
   asymptomatic currently. Treat with meds prn.  CT confirmed cystic mass
   at head of pancreas- could be source of bleeding
   - IVF- will reorder today
   - NPO, will restart diet after EUS
   - ERCP scheduled for ultrasound guided bx today
   - surgery and GI following- may need pancreas specialist
   - no longer requesting dilaudid
   .
   # Alcohol abuse: Previously with Delirium tremens, now resolved
   - Continue CIWA w valium PRN
   - thiamine and folate.
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: FULL (confirmed w pt and daughter, HCP)
   .
   # Communication: Patient, daughter
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-1-12**] 05:30 PM
   22 Gauge - [**2111-1-14**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined. He is comfortable
   with no gross bleeding and no abd tenderness. Awaiting ERCP.  Needs a
   plan if no bleeding site identified
 would favor repeat EGD.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2111-1-15**] 17:29 ------